US06861424B2
To a solution of 2-((ethoxycarbonyl)methylcarbonylamino)naphthalene (2.3 g, 8.9 mmol) in MeOH (40 mL) was added a solution of LiOH (1.18 g, 27 mmol) in water (40 mL). The reaction mixture was stirred at ambient temperature. After 3 hours, the reaction mixture was acidified to pH 2-3 by 2N NaHSO4, then extracted with ethyl acetate (3×50 mL). The organic layer was dried over Na2SO4 and evaporated in vacuo to afford 2-((carboxy)methylcarbonyl-amino)naphthalene (2.0 g, 8.7 mmol) as a solid that was used in further preparations without further purification.

reactant | 2-((ethoxycarbonyl)methylcarbonylamino)naphthalene | 8.9 mmol, 2.3 g | C(C)OC(=O)CC(=O)NC1=CC2=CC=CC=C2C=C1 | C15H15NO3
reactant | LiOH | 27 mmol, 1.18 g | [Li+].[OH-]
reactant | NaHSO4 | 2N | OS(=O)(=O)[O-].[Na+]
solvent | MeOH | 40 mL | CO | CH4O
solvent | water | 40 mL | O | H2O
product | 2-((carboxy)methylcarbonyl-amino)naphthalene | 8.7 mmol, 2.0 g | C(=O)(O)CC(=O)NC1=CC2=CC=CC=C2C=C1 | C13H11NO3
